US08168794B2
To a solution of 3-nitro-4-(piperidin-1-yl)pyridine (1.0 equiv.) in ethanol, at a concentration of 0.1 M, was added 10% palladium on carbon (0.1 eq.). The resultant heterogeneous solution was put under an atmosphere of hydrogen and was stirred for 15 hours. At this time the mixture was filtered through a pad of celite eluting with methanol. The volatiles were removed in vacuo yielding 4-(piperidin-1-yl)pyridin-3-amine (93%) as an oil. LCMS (m/z): 178.0 (MH+); LC Rt=1.68 min. 1H NMR (CDCl3): δ 8.01 (s, 1H), 7.96 (d, J=5.4, 1H), 6.78 (d, J=5.1, 1H), 3.64-3.74 (m, 2H), 2.86-2.94 (m, 4H), 1.66-1.78 (m, 4H), 1.58-1.64 (m, 2H).

reactant | 3-nitro-4-(piperidin-1-yl)pyridine | 1.0 equiv. | [N+](=O)([O-])C=1C=NC=CC1N1CCCCC1 | C10H13N3O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 eq. | [Pd] | Pd
product | 4-(piperidin-1-yl)pyridin-3-amine | 93% | N1(CCCCC1)C1=C(C=NC=C1)N | C10H15N3
